US04279918
2-(4-chlorobenzyl)-1-[4-(4-fluorophenyl)butyl]pyrrolidine
Heat 0.8 g of 2-(4-chlorobenzyl)-1-[3-(4-fluorobenzoyl)propyl]pyrrolidine to 170° for 2 hours with 1 ml of hydrazine hydrate, 0.5 g of potassium hydroxide and 5 ml of triglycol. After cooling the obtained reaction mixture to ambient temperature, add water and diethyl ether thereto. Dry the ethereal phase over sodium sulfate and distil off the solvent to obtain the title compound as brownish viscous oil.

reactant | 2-(4-chlorobenzyl)-1-[3-(4-fluorobenzoyl)propyl]pyrrolidine | 0.8 g | ClC1=CC=C(CC2N(CCC2)CCCC(C2=CC=C(C=C2)F)=O)C=C1 | C21H23ClFNO
reactant | hydrazine hydrate | 1 ml | O.NN
reactant | potassium hydroxide | 0.5 g | [OH-].[K+]
reactant | triglycol | 5 ml | C(COCCOCCO)O | C6H14O4
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 2-(4-chlorobenzyl)-1-[4-(4-fluorophenyl)butyl]pyrrolidine | ClC1=CC=C(CC2N(CCC2)CCCCC2=CC=C(C=C2)F)C=C1 | C21H25ClFN
